US05294734
5 g (15.1 mmol) of ethyl 7-ethoxycarbonylmethoxy-2-formylamino-3-hydroxy-4-methylene-heptanoate are dissolved in 50 ml of CH2Cl2 and 1.4 ml (18.1 mmol) of thionyl bromide are added dropwise at room temperature. After 2 hours 50 ml of water are added and the batch is stirred vigorously for 10 minutes. The organic phase is separated and washed once with water, once with a 1N solution of KHCO3 and twice with water. The aqueous phases are extracted once with CH2Cl2. The combined phases are dried over Na2SO4, filtered, and the filtrate is concentrated by evaporation giving ethyl 4-bromomethyl-7-ethoxycarbonylmethoxy-2-formylamino-hept-3-enoate as a yellow oil which is further reacted without purification. 6.4 g (15 mmol) of ethyl 4-bromomethyl-7-ethoxycarbonylmethoxy-2-formylamino-hept-3-enoate and 14.8 ml (60 mmol) of triisopropyl phosphite (90%) are heated to 80° C. and stirred for 18 hours under a pressure of 100 mbar. Excess triisopropyl phosphite is removed by distillation and the residue is chromatographed over silica gel with hexane/ethyl acetate (1:2:5%) to give ethyl 7-ethoxycarbonylmethoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate as a brown oil.

reactant | ethyl 4-bromomethyl-7-ethoxycarbonylmethoxy-2-formylamino-hept-3-enoate | 15 mmol, 6.4 g | BrCC(=CC(C(=O)OCC)NC=O)CCCOCC(=O)OCC | C15H24BrNO6
reactant | triisopropyl phosphite | 60 mmol, 14.8 ml | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
product | ethyl 7-ethoxycarbonylmethoxy-2-formylamino-4-diisopropylphosphonomethyl-hept-3-enoate | C(C)OC(=O)COCCCC(=CC(C(=O)OCC)NC=O)CP(=O)(OC(C)C)OC(C)C | C21H38NO9P
